US06632811B2
Step A—Synthesis of 7-Methyl-5,7-dihydro-6H-dibenz[b,d]azepin-6-one
A round bottom flask was charged with sodium hydride (0.295 g, 7.46 mmol) in 9.0 ml of DMF and treated with 5,7-dihydro-6H-dibenz[b,d]azepin-6-one (1.3 g, 6.22 mmol) (CAS # 20011-90-9, prepared as described in Brown, et. al., Tetrahedron Letters, No. 8, 667-670, (1971) and references cited therein). After stirring at 60° C. for 1 h, the solution was treated with methyl iodide (1.16 ml, 18.6 mmol) and stirring continued for 17 h with the exclusion of light. After cooling, the reaction was diluted with CH2Cl2/H2O, washed with NaHSO4 solution, H2O, and dried over Na2SO4. Evaporation and flash chromatography (SiO2, CHCl3) gave 0.885 g (63%) of the title compound as a colorless solid.

reactant | sodium hydride | 7.46 mmol, 0.295 g | [H-].[Na+]
reactant | 5,7-dihydro-6H-dibenz[b,d]azepin-6-one | 6.22 mmol, 1.3 g | C1=CC=CC=2NC(CC3=C(C21)C=CC=C3)=O | C14H11NO
reactant | methyl iodide | 18.6 mmol, 1.16 ml | CI | CH3I
solvent | DMF | 9.0 ml | CN(C)C=O | C3H7NO
solvent | CH2Cl2 H2O | C(Cl)Cl.O
product | 7-Methyl-5,7-dihydro-6H-dibenz[b,d]azepin-6-one | 0.885 g, 63% | CC1C2=C(C3=C(NC1=O)C=CC=C3)C=CC=C2 | C15H13NO
